datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:15])([H:16])[H:17])[C:5]([C:6]([C:7]([C:8]([H:22])([H:23])[H:24])[C:9](=[C:10]([H:26])[H:27])[H:25])([H:20])[H:21])([H:18])[H:19])[H:14])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]1([H:14])[C:3]([C:4]([H:15])([H:16])[H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([C:8]([H:22])([H:23])[H:24])[C:9](=[C:10]([H:26])[H:27])[H:25])[H:13])([H:11])[H:12],102.006
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])=[C:5]([C:6]([H:14])([H:15])[H:16])[C:7]([H:17])([H:18])[H:19])[H:10])([H:8])[H:9].[C:20](=[C:21][C:22]([H:25])([H:26])[H:27])([H:23])[H:24]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])[C:5]([C:6]([H:14])([H:15])[H:16])([C:7]([H:17])([H:18])[H:19])[C:21](=[C:20]([H:23])[H:24])[C:22]([H:25])([H:26])[H:27])[H:10])([H:8])[H:9],-1.79912
[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[C:19]([C:20](=[C:21]([H:25])[H:26])[H:24])([H:22])[H:23]>>[C:0]1([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[H:7][C:19]([C:20](=[C:21]([H:25])[H:26])[H:24])([H:22])[H:23],92.4246
[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([O:3][O:4][H:14])[C:5]([O:6][H:16])([O:7][O:8][H:17])[H:15])([H:9])[H:10]>>[C:0](=[C:1]([C:2]([H:11])([H:12])[H:13])[C:5]([O:6][H:16])([O:7][O:8][H:17])[H:15])([H:9])[H:10].[O:3][O:4][H:14],63.1784
[O:0]([S:1][H:3])[H:2]>>[O:0][H:2].[S:1][H:3],314.6368
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7](#[C:8][C:9]([C:10]([H:13])([H:14])[H:15])[C:11]([H:16])([H:17])[H:18])[H:12]>>[C:0](=[C:1]([C:2]([H:4])([H:5])[H:6])[C:9]([C:8]#[C:7][H:12])([C:10]([H:13])([H:14])[H:15])[C:11]([H:16])([H:17])[H:18])[H:3],47.5721
[C:0]([O:1][C:2](=[O:3])[H:7])([H:4])([H:5])[H:6].[O:8][H:9]>>[C:0]([O:1][C:2]=[O:3])([H:4])([H:5])[H:6].[H:7][O:8][H:9],3.907856
[C:0](#[C:1][C:2](=[C:3]([C:4]([C:5]([C:6]([H:14])([H:15])[H:16])[C:7]#[C:8][H:17])([H:12])[H:13])[H:11])[H:10])[H:9]>>[C:0](#[C:1][C:2]([C:3]1([H:11])[C:4]([H:12])([H:13])[C:5]1([C:6]([H:14])([H:15])[H:16])[C:7]#[C:8][H:17])[H:10])[H:9],50.7938
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]#[C:5][H:11])[H:7])[H:6].[C:12](=[C:13][C:14](=[S:15])[H:18])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]#[C:5][H:11])[H:6].[H:7][C:13](=[C:12]([H:16])[H:17])[C:14](=[S:15])[H:18],48.116
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([C:3]([H:10])([H:11])[H:12])[H:6])([H:4])[H:5].[C:13]([O:14][H:17])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([H:10])([H:11])[H:12])([H:4])[H:5].[H:6][C:13]([O:14][H:17])([H:15])[H:16],0.0
[C:0](=[C:1]([C:2](=[C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[H:14])[H:13])[H:12])([H:10])[H:11].[C:20]([C:21]([H:24])([H:25])[H:26])([H:22])[H:23]>>[C:0](=[C:1]([C:2]([C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])([H:14])[C:20]([C:21]([H:24])([H:25])[H:26])([H:22])[H:23])[H:13])[H:12])([H:10])[H:11],20.3342
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[O:10][O:11]>>[C:0]([C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])([H:5])[O:10][O:11],98.7424
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6]([S:7][H:11])([H:8])([H:9])[H:10]>>[C:0](#[C:1][C:2]([H:4])([H:5])[S:7][C:6]([H:8])([H:9])[H:10])[H:3].[H:11],112.968
[C:0](#[C:1][H:3])[H:2].[C:4]([O:5])([H:6])([H:7])[H:8]>>[C:0](=[C:1][H:3])([H:2])[O:5][C:4]([H:6])([H:7])[H:8],33.0536
[C:0]1([H:6])[C:1]([H:7])=[C:2]([H:8])[C:3]2([H:9])[C:4]([H:10])([H:11])[C:5]12[H:12]>>[C:0]1([H:6])=[C:5]([H:12])[C:3]([C:4]([H:10])[H:11])([H:9])[C:2]([H:8])=[C:1]1[H:7],24.940824
[C:0](#[C:1][C:2]([S:3][H:6])[H:5])[H:4].[C:7]([C:8]([C:9]([H:20])([H:21])[H:22])([c:10]1[c:11]([H:23])[c:12]([H:24])[c:13]([H:25])[c:14]([H:26])[c:15]1[H:27])[H:19])([H:16])([H:17])[H:18]>>[C:0](#[C:1][C:2]([S:3][H:6])([H:5])[H:19])[H:4].[C:7]([C:8]([C:9]([H:20])([H:21])[H:22])[c:10]1[c:11]([H:23])[c:12]([H:24])[c:13]([H:25])[c:14]([H:26])[c:15]1[H:27])([H:16])([H:17])[H:18],32.6352
[C:0](#[C:1][C:2]#[C:3][C:4]([H:6])([H:7])[H:8])[H:5].[C:9]([C:10]([C:11]([H:16])([H:17])[H:18])[C:12]([H:19])([H:20])[H:21])([H:13])([H:14])[H:15]>>[C:0](#[C:1][C:2](=[C:3][C:4]([H:6])([H:7])[H:8])[C:10]([C:9]([H:13])([H:14])[H:15])([C:11]([H:16])([H:17])[H:18])[C:12]([H:19])([H:20])[H:21])[H:5],23.3467
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8]([C:9]([C:10]([H:20])([H:21])[H:22])[c:11]1[c:12]([H:23])[c:13]([H:24])[c:14]([H:25])[c:15]([H:26])[c:16]1[H:27])([H:17])([H:18])[H:19]>>[C:0](#[C:1][C:2]=[C:3]([H:6])[H:7])[H:4].[H:5][C:9]([C:8]([H:17])([H:18])[H:19])([C:10]([H:20])([H:21])[H:22])[c:11]1[c:12]([H:23])[c:13]([H:24])[c:14]([H:25])[c:15]([H:26])[c:16]1[H:27],96.7341
